US08802678B2
To a cooled solution of 5.7 g (29.5 mmol) of 2-methyl-1-(2-nitrophenyl)propan-1-one in 35 mL of ethanol and 7 mL of concentrated hydrochloric acid is added under inert atmosphere, 0.7 g of 10% palladium on activated carbon. The mixture is hydrogenated at 50° C. under 4 bar for 2 hours. The suspension is filtered over celite and the filtrate is concentrated under reduced pressure. The residue is dissolved in water, alcalinized to pH 9 with a concentrated solution of sodium hydroxide and extracted 3 times with ethyl acetate. The organic phases are combined, washed with water then with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The oily yellow residue (5 g) is purified over 150 g of silica gel (eluant heptane/ethyl acetate 2/1) to give 1.2 g (27%) of 2-isobutylaniline as an oil.

reactant | 2-methyl-1-(2-nitrophenyl)propan-1-one | 29.5 mmol, 5.7 g | CC(C(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C10H11NO3
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 7 mL | Cl | ClH
catalyst | palladium on activated carbon | 0.7 g | [Pd] | Pd
product | 2-isobutylaniline | 1.2 g, 27% | C(C(C)C)C1=C(N)C=CC=C1 | C10H15N
